US04567270
α-[2-[bis(1-methylethyl)amino]ethyl]-α-(2-chlorophenyl)-2-pyridinepropanenitrile
The title compound was prepared by the method of Example 1 using 33 g (118 mmole) of α-[2-[bis(1-methylethyl)amino]ethyl]-2-chlorophenylacetonitrile instead of α-[2-[bis(1-methylethyl)amino]ethyl]phenylacetonitrile and dimethylformamide at 45°-50° instead of toluene at 65°-70°. After water was added to quench the reaction, the aqueous dimethylformamide solution was extracted with diethyl ether. The organic phase was separated, washed with water, and extracted into dilute aqueous hydrochloric acid. As in Example 1, the aqueous layer was made basic and extracted into dichloromethane, which was then dried and concentrated. The resultant oil was used in subsequent reactions without chromatographic purification. nmr (CDCl3): δ(ppm) 3.7 (pair of pseudo-d's, pyridyl-CH2 (isomers, each with non-equivalent H's)); 6.9-7.7 (m's, aromatic CH's); 8.35-8.55 (m, pyridine 6-H).

reactant | α-[2-[bis(1-methylethyl)amino]ethyl]-2-chlorophenylacetonitrile | 118 mmole, 33 g | CC(C)N(CCC(C#N)C1=C(C=CC=C1)Cl)C(C)C | C16H23ClN2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | α-[2-[bis(1-methylethyl)amino]ethyl]-α-(2-chlorophenyl)-2-pyridinepropanenitrile | CC(C)N(CCC(C#N)(CC1=NC=CC=C1)C1=C(C=CC=C1)Cl)C(C)C | C22H28ClN3
